US09382228B2
A suspension of 2-amino-5-bromo-6-trifluoromethyl-pyridine (0.5 g, 2.075 mmol), PdCl2(dppf)-DCM adduct (0.085 g, 0.104 mmol), bis(pinacolato)diboron (0.685 g, 2.70 mmol) and KOAc (0.611 g, 6.22 mmol) in dioxane (8 mL) was sparged with Ar and heated at 105° C. overnight. The mixture was cooled to RT, treated with EtOAc, the solids removed via filtration through diatomaceous earth, rinsed well with EtOAc and the filtrate concentrated to dryness to afford 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-6-(trifluoromethyl)pyridin-2-amine (100% yield assumed). MS (ESI) m/z: 289.1 (M+H+).

reactant | 2-amino-5-bromo-6-trifluoromethyl-pyridine | 2.075 mmol, 0.5 g | NC1=NC(=C(C=C1)Br)C(F)(F)F | C6H4BrF3N2
reactant | bis(pinacolato)diboron | 2.70 mmol, 0.685 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 6.22 mmol, 0.611 g | CC(=O)[O-].[K+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.104 mmol, 0.085 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-6-(trifluoromethyl)pyridin-2-amine | 100% yield | CC1(OB(OC1(C)C)C=1C=CC(=NC1C(F)(F)F)N)C | C12H16BF3N2O2
